US08754095B2
2-[4-((2S,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-yl)-phenyl]-N-piperidin-4-yl-acetamide hydrochloride
4-{2-[4-((2S,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-yl)-phenyl]-acetylamino}-piperidine-1-carboxylic acid tert-butyl ester (2.92 g, 6.2 mmol) was dissolved in 5 mL of dioxane. To this solution was added 1.0 g of PhSH, followed by addition of 4N HCl in dioxane (6.2 mL, 24.8 mmol, 4 equiv.). The solution was stirred at rt overnight. HCl was removed by passing N2 through the solution which was absorbed by NaOH aq solution. The solvent was removed by reduced pressure distillation. The residue was further dried under high vacuum to get 2.7 g (100%) of the title compound as a powder.

reactant | 4-{2-[4-((2S,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-yl)-phenyl]-acetylamino}-piperidine-1-carboxylic acid tert-butyl ester | 6.2 mmol, 2.92 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(CC1=CC=C(C=C1)N1C[C@H](CC1)N1[C@H](CCC1)C)=O | C27H42N4O3
reactant | PhSH | 1.0 g | C1(=CC=CC=C1)S | C6H6S
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 24.8 mmol, 6.2 mL, 4 equiv. | O1CCOCC1 | C4H8O2
product | 2-[4-((2S,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-yl)-phenyl]-N-piperidin-4-yl-acetamide hydrochloride | 2.7 g, 100% | Cl.C[C@@H]1N(CCC1)[C@@H]1CN(CC1)C1=CC=C(C=C1)CC(=O)NC1CCNCC1 | InChI=1S/C22H34N4O.ClH/c1-17-3-2-13-26(17)21-10-14-25(16-21)20-6-4-18(5-7-20)15-22(27)24-19-8-11-23-12-9-19;/h4-7,17,19,21,23H,2-3,8-16H2,1H3,(H,24,27);1H/t17-,21-;/m0./s1
